US06384033B1
N-t-Butyl-2,4-difluorobenzamide
A solution of t-butylamine (0.2962 g, 4.05 mmol) and triethylamine (0.70 ml, 5.02 mmol) in dichloromethane (2 ml) was cooled to 0° C. in an ice-bath. To the above solution was added a solution of 2,4-difluorobenzoyl chloride (0.3652 g, 2.07 mmol) in dichloromethane (3 ml) dropwise and stirred for 2.5 hours. The mixture was added to saturated aqueous NaHCO3 and extracted three times with ethyl acetate. The combined extracts were washed with saturated aqueous NaHCO3 and dried over MgSO4. The solvent was evaporated to give the title compound (0.4086 g; 93%).

reactant | t-butylamine | 4.05 mmol, 0.2962 g | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 5.02 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorobenzoyl chloride | 2.07 mmol, 0.3652 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-t-Butyl-2,4-difluorobenzamide | 0.4086 g, 93% | C(C)(C)(C)NC(C1=C(C=C(C=C1)F)F)=O | C11H13F2NO
